US05238908
To a slurry of 5.1 g (91 mmol) of iron powder in 42.5 ml of 5% aqueous acetic acid was added dropwise a solution of 4 g of 6-nitro-4-propargyl-2H-1,4-benzoxazin-3(4H)-one dissolved in 42.5 ml of glacial acetic acid and 42.5 ml of EtOAc. The reaction mixture was heated to gentle reflux for 1 hour then cooled to room temperature. The iron was removed by suction filtration. EtOAc (50 ml) was added to the filtrate and the layers were separated. The aqueous phase was extracted with EtOAc (2×50 ml) and the organic layers were combined, washed with saturated aqueous sodium bicarbonate solution (100 ml), and dried (MgSO4). The solvent was removed in vacuo to yield a thin brown oil which was taken up in 50 ml of water and reextracted with EtOAc (3×50 ml). The organic layers were combined, washed with water (2×50 ml) and then dried (MgSO4). The solvent was removed in vacuo to yield 2.55 g (75% yield) of 6-amino-4-propargyl-2H-1,4-benzoxazin-3(4H)-one as a dark brown solid, m.p. 136°-140° C.

reactant | 6-nitro-4-propargyl-2H-1,4-benzoxazin-3(4H)-one | 4 g | [N+](=O)([O-])C=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C11H8N2O4
solvent | acetic acid | 42.5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 42.5 ml | C(C)(=O)O | C2H4O2
solvent | EtOAc | 42.5 ml | CCOC(=O)C | C4H8O2
solvent | water | 50 ml | O | H2O
catalyst | iron | 91 mmol, 5.1 g | [Fe] | Fe
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 6-amino-4-propargyl-2H-1,4-benzoxazin-3(4H)-one | 2.55 g, 75% yield | NC=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C11H10N2O2
